US05580872
Step 1: Ethyl 1-ethyl-8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylate
Ethyl 8-chloro-1-ethyl-4H-quinolizin-4-one-3-carboxylate (279 mg, 1.0 mmol), the product of Step 3 of Example 62, was dissolved in 5 mL of dry pyridine under a nitrogen atmosphere. To the resultant solution was added 2 mL (2.0 mmol) of N-methylpiperazine and the stirred reaction mixture was heated at 85° C. for 2.5 hours. The reaction mixture was allowed to cool to ambient temperature and then concentrated in vacuo in order to remove all of the pyridine. The residue was dissolved in 50 mL of methylene chloride and the methylene chloride solution was washed with 50 mL of 5% aqueous sodium bicarbonate solution. The aqueous layer was extracted with 3×50 mL of methylene chloride and the combined methylene chloride solutions were dried over anhydrous sodium sulfate, filtered and concentrated and dried in vacuo to afford 343 mg of the title compound, m.p. 94°-96° C.; MS DCI-NH3 : 344 (M+H)+.

reactant | Ethyl 8-chloro-1-ethyl-4H-quinolizin-4-one-3-carboxylate | 1.0 mmol, 279 mg | ClC=1C=CN2C(C(=CC(=C2C1)CC)C(=O)OCC)=O | C14H14ClNO3
reactant | N-methylpiperazine | 2.0 mmol, 2 mL | CN1CCNCC1 | C5H12N2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl 1-ethyl-8-(4-methylpiperazin-1-yl)-4H-quinolizin-4-one-3-carboxylate | 343 mg | C(C)C=1C=C(C(N2C=CC(=CC12)N1CCN(CC1)C)=O)C(=O)OCC | C19H25N3O3
